US08835648B2
N-(2-Amino-5-methoxy-phenyl)-5-bromo-2-fluoro-benzamide
Method 6—Step a A mixture of 5-Bromo-2-fluoro-benzoic acid (1.50 g, 6.85 mmol), 4-methoxy-benzene-1,2-diamine dihydrochloride (1.77 g, 8.49 mmol), HATU (2.73 g, 7.19 mmol) and TEA (2.88 mL, 20.76 mmol) in dichloromethane (20 mL) and DMF (5 mL) was stirred at room temperature overnight, then water was added (50 mL), mixture was stirred for 2 h and left standing at room temperature overnight. The precipitate obtained was filtered off and dried to afford 1.45 g of the title compound (50%).

reactant | 5-Bromo-2-fluoro-benzoic acid | 6.85 mmol, 1.50 g | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | 4-methoxy-benzene-1,2-diamine dihydrochloride | 8.49 mmol, 1.77 g | Cl.Cl.COC=1C=C(C(=CC1)N)N
reactant | HATU | 7.19 mmol, 2.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-Amino-5-methoxy-phenyl)-5-bromo-2-fluoro-benzamide | 1.45 g, 50% | NC1=C(C=C(C=C1)OC)NC(C1=C(C=CC(=C1)Br)F)=O | C14H12BrFN2O2
